US06080743
N-(7-Bromo-2,3-dioxo-1,2,3,4-tetrahydroquinoxalin-5-ylmethyl)-glycine Hydrobromide
380 mg (0.921 mmol) of N-(7-bromo-2,3-dimethoxy-quinoxalin-5-ylmethyl)-glycine tert-butyl ester are dissolved in 6 ml of an approximately 25% solution of hydrogen bromide in acetic acid and the solution is stirred for two hours at 70° C. The mixture is cooled to 20° C. and diluted with diethyl ether. The solid is filtered off and washed with diethyl ether. After drying under a high vacuum, the title compound is obtained in the form of a white powder.

reactant | N-(7-bromo-2,3-dimethoxy-quinoxalin-5-ylmethyl)-glycine tert-butyl ester | 0.921 mmol, 380 mg | C(C)(C)(C)OC(CNCC1=C2N=C(C(=NC2=CC(=C1)Br)OC)OC)=O | C17H22BrN3O4
solvent | hydrogen bromide | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-(7-Bromo-2,3-dioxo-1,2,3,4-tetrahydroquinoxalin-5-ylmethyl)-glycine Hydrobromide | Br.BrC1=CC(=C2NC(C(NC2=C1)=O)=O)CNCC(=O)O | InChI=1S/C11H10BrN3O4.BrH/c12-6-1-5(3-13-4-8(16)17)9-7(2-6)14-10(18)11(19)15-9;/h1-2,13H,3-4H2,(H,14,18)(H,15,19)(H,16,17);1H
